US06271225B1
In the same manner as in Example 74 and using 2-bromo-4,5,6,7-tetrahydro-N-(4-fluoro-2-mercaptophenyl)-benzo[b]thiophene-3-carboxamide, dimethyl sulfoxide and potassium carbonate, 8-fluoro-1,2,3,4-tetrahydro-[1]benzothieno[2,3-b][1,5]benzothiazepin-12(11H)-one is obtained.

reactant | 2-bromo-4,5,6,7-tetrahydro-N-(4-fluoro-2-mercaptophenyl)-benzo[b]thiophene-3-carboxamide | BrC1=C(C2=C(S1)CCCC2)C(=O)NC2=C(C=C(C=C2)F)S | C15H13BrFNOS2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 8-fluoro-1,2,3,4-tetrahydro-[1]benzothieno[2,3-b][1,5]benzothiazepin-12(11H)-one | FC1=CC2=C(NC(C3=C(S2)SC2=C3CCCC2)=O)C=C1 | C15H12FNOS2
